US06784261B1
Norbornene Ethene Copolymerization
First of all, 0.200 mmole of the chromium compound from Example 5 was suspended in 50 mL of toluene. This solution was then put into a 250-mL glass autoclave. Subsequently, 40 mL of a norbornene-toluene solution (318.60 mmoles of norbornene) were added to this solution. The reaction mixture thus obtained was first brought to a temperature of 0° C. [32° F.] and subsequently saturated with ethene for 30 minutes at 3 bar. Then the reaction was started by adding 1.34 g of MAO (Cr:Al=1:50) dissolved in 20 mL of toluene. After a reaction time of 1.5 hours, the reaction was interrupted by dripping the polymerization mixture into a mixture of methanol and hydrochloric acid. The polymer precipitate obtained in this process was filtered off, washed with methanol and dried in a vacuum at 70° C. [158° F.]. The yield was 28 g of a polymer having a Tg of 128° C. [262.4° F.].

reactant | norbornene toluene | 318.60 mmoles, 40 mL | C12C=CC(CC1)C2.C1(=CC=CC=C1)C
reactant | ethene | C=C | C2H4
reactant | methanol | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | chromium | 0.200 mmole | [Cr] | Cr
product | Norbornene Ethene | C=C.C12C=CC(CC1)C2 | InChI=1S/C7H10.C2H4/c1-2-7-4-3-6(1)5-7;1-2/h1-2,6-7H,3-5H2;1-2H2
